US07071182B2
3-chloro-4-nitro-1H-indazole
To a mixture of NaOH (0.500 g, 12.5 mmol) in H2O (15.0 mL) was added 4-nitroindazole (0.500 g, 3.07 mmol) after which it was heated until a red solution formed. The solution was immediately placed in an ice-water bath for 15 minutes before NaClO (6.00 mL, 5.25%, 4.50 mmol) was added. The mixture was stirred at 0° C. for 5 hour, the pH adjusted to 7 with dilute HCl and extracted with ethyl acetate. The combined organic layer was washed with H2O, concentrated under reduced pressure and purified by flash chromatography to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.17 (m, 1H), 8.57 (m, 1H), 8.77 (m, 1H), 14.17 (s, 1H); MS (DCI/NH3) m/Z 197[M+H]+.

reactant | NaOH | 12.5 mmol, 0.500 g | [OH-].[Na+]
reactant | 4-nitroindazole | 3.07 mmol, 0.500 g | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | NaClO | 4.50 mmol, 6.00 mL | [O-]Cl.[Na+]
reactant | HCl | Cl | ClH
solvent | H2O | 15.0 mL | O | H2O
product | 3-chloro-4-nitro-1H-indazole | ClC1=NNC2=CC=CC(=C12)[N+](=O)[O-] | C7H4ClN3O2
